### PR TITLE
H-spaces, closes #984

### LINKED ISSUE #984: Proving Lemma 8.5.5
I have been stuck on this for a few weeks now:

```
Section HSpace.
(*   Context `{Funext}. *)

  Class IsHSpace (space : Type) := {
    id : space;
    mu : space -> space -> space;
    left_id : forall a, mu id a = a;
    right_id : forall a, mu a id = a
  }.

  Context {A : Type}
         `{IsHSpace A}
         `{IsConnected 0 A}.

  Lemma mu_l_equiv' : forall (a : A), IsEquiv (mu a).
  Proof.
    intro.
  Admitted.

  Lemma mu_r_equiv' : forall (a : A), IsEquiv (fun x => mu x a).
  Proof.
    serapply (conn_map_elim -1).
  Admitted.
```

It is quite difficult to follow the book proof, as it is not so specific. Any pointers on how to prove this?

### PR DESCRIPTION
**Pull request by Alizter**
I have added the definition of H-space and the equivalences induced when the space is 0-connected.

This closes #984.

### CODE REVIEW

File: theories/Homotopy/HSpace.v [hunk 1]
```diff
@@ -0,0 +1,55 @@
+Require Import Basics.
+Require Import Types.
+Require Import Truncations.
+Require Export Classes.interfaces.abstract_algebra.
+Import TrM.
+
+Local Open Scope trunc_scope.
+
+Class HSpace (X : pType) := {
```
Comment (mikeshulman) [inline theories/Homotopy/HSpace.v]: Should this be `IsHSpace`?

Comment (Alizter) [reply theories/Homotopy/HSpace.v]: I think it is a bit awkward like IsIdempotent, since this isn't a proposition. I'm probably ok with that change however.

Comment (mikeshulman) [reply theories/Homotopy/HSpace.v]: Oh... I was thinking by analogy with `IsGroup`, but I forgot that the actual data is contained in other typeclasses and that one just states the hprop axioms.

However, if we ever wanted to talk about the type of h-spaces, it would be natural to call that `HSpace` (just like with the type `Group` of groups), in which case the structure of being an h-space would have to be called something different.  So I think I still favor `IsHSpace`.

Comment (Alizter) [reply theories/Homotopy/HSpace.v]: Yes this seems reasonable. As I've said before, we would then expect `HSpace <~> (Smash X X -> X)` or something.

Comment (Alizter) [reply theories/Homotopy/HSpace.v]: Actually wait I think I disagree. Why would we ever want to talk about the type of H-spaces? I have only ever seen collections of H-spaces on some specific object. I think that's why I didn't use the Is.

Comment (Alizter) [reply theories/Homotopy/HSpace.v]: Actually wait, ignore what I just said. I am confusing myself and probably you too. I think you are right with IsHSpace.

Comment (Alizter) [reply theories/Homotopy/HSpace.v]: OK I am fine with changing it to IsHSpace

**Comment by Alizter** [comment]
OK I have rebased and carried out Mike's suggestion.

**Comment by Alizter** [comment]
Rebased once again for #1155

**Comment by Alizter** [comment]
@spitters @andreaslyn Anyone else able to review?
